US04039589
0.48 g. of 10% palladium-on-carbon catalyst are added to a solution of 19.4 g. of 2,4-dichloro-α-ethynyl-benzhydrol in 200 ml. of benzene, and the mixture is hydrogenated until the absorption of the calculated amount of hydrogen (about 60 minutes). Thereafter the catalyst is removed by filtration, and the solvent is evaporated. The obtained 16.1 g. of crude product is distilled in vacuo, to yield pure 2,4-di-chloro-α-ethyl-benzhydrol, b.p.: 136°-138° C./0.1 mmHg.

reactant | 2,4-dichloro-α-ethynyl-benzhydrol | ClC1=C(C(C2=CC=CC=C2)(O)C#C)C=CC(=C1)Cl | C15H10Cl2O
catalyst | palladium-on-carbon | [Pd] | Pd
product | 2,4-di-chloro-α-ethyl-benzhydrol | ClC1=C(C(C2=CC=CC=C2)(O)CC)C=CC(=C1)Cl | C15H14Cl2O
